US05840917
A mixture of 2-chloro-3-thiophenecarboxylic acid (2.44 g), pyridinium bromide perbromide (5.33 g) and acetic acid (15 ml) was stirred at 40° C. for 4 hours and poured into ice-water. Precipitated crystals were collected by filtration, dissolved in ethyl acetate and dried over anhydrous magnesium sulfate. The solution was concentrated under reduced pressure to give 5-bromo-2-chloro-3-thiophenecarboxylic acid (2.81 g) as crystals.

reactant | 2-chloro-3-thiophenecarboxylic acid | 2.44 g | ClC=1SC=CC1C(=O)O | C5H3ClO2S
reactant | pyridinium bromide perbromide | 5.33 g | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-bromo-2-chloro-3-thiophenecarboxylic acid | 2.81 g | BrC1=CC(=C(S1)Cl)C(=O)O | C5H2BrClO2S
